US04800203
7-Chloro-5-propylpyrrolo[1,2-b]cinnolin-10(5H)-one
7-Chloropyrrolo[1,2-b]cinnolin-10(5H)-one (9.0 g) was taken up in 100 ml of DMF and milled K2CO3 (11.33 g) was added. 1-Bromopropane (10.09 g) was then added dropwise and the solution was stirred at room temperature for 48 h. Water was added and the solution was extracted into dichloromethane and washed several times with H2O and dilute hydrochloric acid. The organics were then dried (MgSO4), charcoaled, filtered and concentrated to an orange oil. The oil was purified by HPLC (silica, dichloromethane) and concentrated to give 6.33 g of an orange powder which was recrystallized from ether to yield 3.4 g of yellow-orange microcrystals, mp 107°-108°.

reactant | 7-Chloropyrrolo[1,2-b]cinnolin-10(5H)-one | 9.0 g | ClC=1C=CC=2C(C=3N(NC2C1)C=CC3)=O | C11H7ClN2O
reactant | K2CO3 | 11.33 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-Bromopropane | 10.09 g | BrCCC | C3H7Br
reactant | Water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 7-Chloro-5-propylpyrrolo[1,2-b]cinnolin-10(5H)-one | 6.33 g | ClC=1C=CC=2C(C=3N(N(C2C1)CCC)C=CC3)=O | C14H13ClN2O
